USRE036375
1,2,5,6-Tetrahydro-1-methyl-3-(3-(3-(2-thienyl)-1-propoxy)- 1,2,5-thiadiazol-4-yl)pyridine;
A compound according to claim 1, wherein the compound is: 3-(3-[2-(1-Pyrrolidinyl)ethoxy]-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1methylpyrid 3-(3-(3-(5-Methyl-2-thienyl)-1-propoxy)- 1,2,5-thiadiazol-4-yl)- 1,2,5,6-tetrahydro- 1-methylpyridine; 3-(3-( (5-Propyl-2-thienyl)methoxy)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1 methylpyridine; 3-(3-(3-(5-Pentyl-2-thienyl)-1-propoxy)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1-methylpyridine; 3-(3-(3-(2-Thienylthio)-1-propoxy)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetahydro-1-methylpyridine; 3-(3-(3-(2-Thienyl)-1-propylthio)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1methylpyridine; 3-(3-(2-Thienylmethylthio)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro- 1methylpyridine; 3-(3-(3-(2-Oxazolidinon-3-yl)-1-propylthio)-1,2,5-thiadiazol-4yl )-1,2,5,6-tetrahydro- 1-methylpyridine; 3-(3-(3-(2-Thiazolidinon-3-yl)-1-propylthio- 1,2,5-thiadiazol-4yl)-1,2,5,6-tetrahydro- 1-methylpyridine; 3-(3-(5-Pentyl-2-thienyl)methylthio-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1-methylpyrid

reactant | 3-(3-( (5-Propyl-2-thienyl)methoxy)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1 methylpyridine | C(CC)C1=CC=C(S1)COC1=NSN=C1C=1CN(CCC1)C | C16H21N3OS2
reactant | 3-(3-(3-(5-Pentyl-2-thienyl)-1-propoxy)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1-methylpyridine | C(CCCC)C1=CC=C(S1)CCCOC1=NSN=C1C=1CN(CCC1)C | C20H29N3OS2
reactant | 3-(3-(3-(2-Thienyl)-1-propylthio)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1methylpyridine | S1C(=CC=C1)CCCSC1=NSN=C1C=1CN(CCC1)C | C15H19N3S3
reactant | 3-(3-(2-Thienylmethylthio)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro- 1methylpyridine | S1C(=CC=C1)CSC1=NSN=C1C=1CN(CCC1)C | C13H15N3S3
reactant | 3-(3-(3-(2-Oxazolidinon-3-yl)-1-propylthio)-1,2,5-thiadiazol-4yl )-1,2,5,6-tetrahydro- 1-methylpyridine | O1C(N(CC1)CCCSC1=NSN=C1C=1CN(CCC1)C)=O | C14H20N4O2S2
reactant | 3-(3-(2-Thiazolidinon-3-yl)-1-propylthio- 1,2,5-thiadiazol-4yl)-1,2,5,6-tetrahydro- 1-methylpyridine | S1C(N(CC1)C1=NS(N=C1C=1CN(CCC1)C)SCCC)=O | C14H22N4OS3
product | 1,2,5,6-Tetrahydro-1-methyl-3-(3-(3-(2-thienyl)-1-propoxy)- 1,2,5-thiadiazol-4-yl)pyridine | CN1CC(=CCC1)C=1C(=NSN1)OCCCC=1SC=CC1 | C15H19N3OS2
